US09422331B2
To a 0° C. solution of tert-butyl(2S,3S)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (107.0 mg, 367 μmol) in DMF (2.45 ml) was added a solution of N-bromosuccinimide (68.6 mg, 386 μmol) in DMF (1.22 ml), dropwise over 5 min. The reaction was stirred at 0° C. for 30 min, then diluted with sat. aq. NH4Cl and extracted with EtOAc. The combined organic layers were washed with H2O, sat. aq. NaHCO3, and sat. aq. NaCl, dried over Na2SO4, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(2S,3S)-7-bromo-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (130 mg, 96%) as a white solid. MS m/z 392/394 (MNa)+.

reactant | tert-butyl(2S,3S)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 367 μmol, 107.0 mg | C[C@H]1[C@@H](C(NC2=C(N1)C=CC=C2)=O)NC(OC(C)(C)C)=O | C15H21N3O3
reactant | N-bromosuccinimide | 386 μmol, 68.6 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 2.45 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.22 ml | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | tert-butyl(2S,3S)-7-bromo-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 130 mg, 96% | BrC1=CC2=C(N[C@H]([C@@H](C(N2)=O)NC(OC(C)(C)C)=O)C)C=C1 | C15H20BrN3O3
